US04519937
Preparation of 2-Amino-5-(2-methyl-1,3-dioxolan-2-yl)benzophenone
5-(2-Methyl-1,3-dioxolan-2yl)-3-phenyl-2,1-benzisoxazole (1.50 g, 5.3 mmol), triethyl amine (0.3 ml) and 5% palladium on carbon (0.15 g) were combined in dry tetrahydrofuran (13 ml). The apparatus wa flushed with nitrogen and then hydrogen. A static hydrogen atmosphere was maintained (1 atm.) and the progress of the reaction followed by gas chromatography. The starting material and product have retention times of 11.15 and 11.33 min. respectively. When conversion was complete, the mixture was filtered through a pad of Celite to yield a clear yellow solution. Evaporation of the solution yielded a yellow solid (1.35 g) of mp. 108°-111° C.

reactant | 5-(2-Methyl-1,3-dioxolan-2yl)-3-phenyl-2,1-benzisoxazole | 5.3 mmol, 1.50 g | CC1(OCCO1)C=1C=CC=2C(=C(ON2)C2=CC=CC=C2)C1 | C17H15NO3
reactant | triethyl amine | 0.3 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | 2-Amino-5-(2-methyl-1,3-dioxolan-2-yl)benzophenone | 1.35 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C1(OCCO1)C | C17H17NO3
